US06344483B1
Ex-8h) 2.86 g of ethylfluoroacetimidate hydrochloride, 1 equivalent of 2-acetylamino-6-amino-4-hexynoic acid and 6.84 g of DBU are taken up in 200 mL absolute ethanol and stirred for 16 h at 20° C. under argon. Solvent is removed under vacuum and 100 mL water is added. This reaction mixture is filtered through acidic ion exchange column and the product is eluted with 10% pyridine/water. (±)-2-Acetylamino-6-(1-imino-2-fluoroethylamino)-hex-4-ynoic acid hydrochloride is obtained by removing the solvent under vacuum.

reactant | ethylfluoroacetimidate hydrochloride | 2.86 g | Cl.C(C)OC(CF)=N
reactant | 2-acetylamino-6-amino-4-hexynoic acid | 1 equivalent | C(C)(=O)NC(C(=O)O)CC#CCN | C8H12N2O3
reactant | DBU | 6.84 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (±)-2-Acetylamino-6-(1-imino-2-fluoroethylamino)-hex-4-ynoic acid hydrochloride | Cl.C(C)(=O)NC(C(=O)O)CC#CCNC(CF)=N | InChI=1S/C10H14FN3O3.ClH/c1-7(15)14-8(10(16)17)4-2-3-5-13-9(12)6-11;/h8H,4-6H2,1H3,(H2,12,13)(H,14,15)(H,16,17);1H
